US08957066B2
Cs2CO3 (1.304 g, 4 mmol) was added to a solution of 1H-pyrazole-4-carbaldehyde (0.192 g, 2 mmol) in dioxane (8 mL) at room temperature. Trimethylphosphonoacetate (0.364 g, 0.40 mmol) was added to this suspension, followed by DMSO (2 mL). The reaction mixture was heated to 100° C. overnight. It was then diluted with EtOAc (40 mL), and washed with water (40 mL) and brine (20 mL). The organic layer was concentrated under vacuum. The crude was purified by silica gel column chromatography using a 0-100% gradient of EtOAc in hexanes to provide (E)-methyl 3-(1-methyl-1H-pyrazol-4-yl)acrylate (0.278 g). ES+(M+H)+167

reactant | Cs2CO3 | 4 mmol, 1.304 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1H-pyrazole-4-carbaldehyde | 2 mmol, 0.192 g | N1N=CC(=C1)C=O | C4H4N2O
reactant | Trimethylphosphonoacetate | 0.40 mmol, 0.364 g | CC(C)(C(=O)[O-])P(=O)(O)OC
reactant | DMSO | 2 mL | CS(=O)C | C2H6OS
reactant | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 40 mL | CCOC(=O)C | C4H8O2
product | (E)-methyl 3-(1-methyl-1H-pyrazol-4-yl)acrylate | 0.278 g | CN1N=CC(=C1)/C=C/C(=O)OC | C8H10N2O2
